US09233108B2
3-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-indol-3-yl]propanoic acid
To a solution of 3-(1H-indol-3-yl)propanoic acid (5 g, 0.026 mol) in DMF (20 mL) was added at 0° C. sodium hydride (2.11 g, 0.088 mol), the mixture was stirred some minutes at 0° C. and (2-bromoethoxy)(tert-butyl)dimethylsilane (5.67 mL, 0.026 mol) was added. The reaction mixture was stirred overnight at room temperature. The crude mixture was poured into a sodium sulphate saturate solution and extracted with ethyl acetate. The solvent was removed under reduced pressure and the crude obtained was purified over silica gel eluting with hexane:ether (100/0 to 0/100) to obtain the title compound (4g, 43%).

reactant | 3-(1H-indol-3-yl)propanoic acid | 0.026 mol, 5 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | sodium hydride | 0.088 mol, 2.11 g | [H-].[Na+]
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 0.026 mol, 5.67 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-1H-indol-3-yl]propanoic acid | 43% | [Si](C)(C)(C(C)(C)C)OCCN1C=C(C2=CC=CC=C12)CCC(=O)O | C19H29NO3Si
